US08202858B2
3-[2-Methyl-4-(3-methyl-4,10-dihydro-3H-2,3,4,9-tetraaza-benzo[f]azulene-9-carbonyl)-phenyl]-1-piperazin-1-yl-propan-1-one
4-{3-[2-Methyl-4-(3-methyl-4,10-dihydro-3H-2,3,4,9-tetraaza-benzo[f]azulene-9-carbonyl)-phenyl]-propionyl}-piperazine-1-carboxylic acid tert-butyl ester from Example E47.1 (1.09 g, 1.95 mmol) was dissolved in methanol (20 ml) and 4M HCl/dioxan solution (20 ml) was added. The mixture was stirred for 3 h at room temperature, concentrated in vacuo and azeotroped with toluene. The residue was dissolved in methanol (30 ml) and ammonia (5 ml) then concentrated in vacuo. The residue was purified by flash chromatography on silica gel (eluant; 0.5% 35% ammonia:4.5% methanol:95% dichloro-methane to 1% 35% ammonia:9% methanol:90% dichloro-methane) to yield the title compound (759 mg, 73%).

reactant | 4-{3-[2-Methyl-4-(3-methyl-4,10-dihydro-3H-2,3,4,9-tetraaza-benzo[f]azulene-9-carbonyl)-phenyl]-propionyl}-piperazine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCN(CC1)C(CCC1=C(C=C(C=C1)C(=O)N1C2=C(NC=3N(N=CC3C1)C)C=CC=C2)C)=O | C31H38N6O4
reactant | HCl dioxan | 4M, 20 ml | Cl.O1CCOCC1
solvent | methanol | 20 ml | CO | CH4O
product | 3-[2-Methyl-4-(3-methyl-4,10-dihydro-3H-2,3,4,9-tetraaza-benzo[f]azulene-9-carbonyl)-phenyl]-1-piperazin-1-yl-propan-1-one | 759 mg, 73% | CC1=C(C=CC(=C1)C(=O)N1C2=C(NC=3N(N=CC3C1)C)C=CC=C2)CCC(=O)N2CCNCC2 | C26H30N6O2
